US08138177B2
Step 3. 2-methyl-4-[(2-nitrophenyl)amino]-2-butanol
A solution of 1-fluoro-2-nitrobenzene (1.9 mL, 18 mmol), 4-amino-2-methyl-2-butanol (1.6 g, 15 mmol) and triethylamine (6.4 mL, 46 mmol) in THF (30 mL) was refluxed for 8 h. Then the reaction was quenched by addition of water (50 mL) and extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (50 mL) and dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (5/1-2/1) to afford 2.8 g (82%) of the title compound.

reactant | 1-fluoro-2-nitrobenzene | 18 mmol, 1.9 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-amino-2-methyl-2-butanol | 15 mmol, 1.6 g | NCCC(C)(O)C | C5H13NO
reactant | triethylamine | 46 mmol, 6.4 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-methyl-4-[(2-nitrophenyl)amino]-2-butanol | 2.8 g, 82% | CC(C)(CCNC1=C(C=CC=C1)[N+](=O)[O-])O | C11H16N2O3
